Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been having the same thoughts I had ___ years ago"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry 
Consult note:
___ M unclear past psychiatric history including prior 
psychiatric hospitalizations, presenting after suicide attempt 
by intentional overdose on ~30 tabs of 220mg naproxen. History 
somewhat difficult to follow due to vague and tangential 
history. He seems to be primarily concerned about 2 issues, 
which he first became aware of ___ years ago but has since become 
increasingly worried about: possible molestation as a child, and 
questioning/denial of his own sexual orientation (latter comes 
up with reluctance much later in interview). He says that he 
believes these are linked but was not able to say how. Both of 
these are sources of shame, intense distress, anxiety, 
rumination, doubt, and paranoia. He often believes that other 
people are watching him or know something about him, referring 
to these secrets. He also has become increasingly suspicious 
towards his own family, believing for example that his mother 
knows about his molestation but will not reveal it to him ("100% 
confident she knows something"). Denies any recent experiences 
of trauma, although does describe bullying growing up and an 
ex-girlfriend who was verbally/emotionally abusive, and also 
says that his mother has refused to believe him when he recently 
disclosed his sexual orientation to her.
.
Today, he had a conversation about molestation with his mother. 
When she left the house, patient had the sudden urge to kill 
himself and impulsively overdosed on naproxen. He regretted it 
soon after saying that it was a stupid decision, although still 
ambivalent about living, and told his mother who brought him to 
the ED. He now is glad to still be alive. He has been having 
frequent suicidal thoughts for the past 2 days. Has also thought 
about shooting himself when he gets his license to carry as a 
member of the ___. Denies prior suicide attempts or 
self injury.
.
Timeline unclear, but for past several weeks at least he has 
been experiencing early morning awakening (3AM, eventually going 
back to sleep), low energy, loss of interest and motivation, 
decreased concentration, guilt, and suicidal thoughts (generally 
passive until today). For past several days he also has been 
eating and drinking infrequently, calling out sick from work, 
isolating at home. For several weeks at least he has also been 
experiencing panic symptoms ("hot flashes", sweating, racing 
heart, overwhelming anxiety), hypervigilance (startled easily) 
and avoidance. Between these denies anxiety or depressed mood 
but was somewhat vague and indecisive about this. He denies 
hallucinations although says he might momentarily believe there 
is somebody behind him and become startled.
.
COLLATERAL:
Spoke in person to patient's mother ___ ___: Her 
history was also vague and tangential. She says that she is 
studying to be a "psychiatrist" and believes her son has trauma 
and PTSD. She describes that current issues began ___ 
years ago with her son having a "nervous breakdown." He was 
under a lot of stress at the time with his job and baby mother. 
He had also smoked something, possibly K2. She describes his 
behavior then as "self diagnosing" with many different somatic 
issues, in the setting of also studying to be EMT. She says he 
was dropped off by her ex-husband at her house, and she called 
BEST and he ended up at ___, then transferred to 
___. He didn't like the medication they gave him, so he 
stopped taking it shortly after leaving hospital. The "self 
diagnosing" and other "emotional issues" (unclear; denies that 
this was anxiety or depression) started up again and got bad by 
___ year ago. During this time he had stress again from 
job and his girlfriend, and was getting high with friends. He 
was hospitalized at ___. Again he was placed on 
a medication that made him feel like a "zombie" and stopped 
taking it. Lately, he has been saying he was molested. Sums up 
his problems as "he keeps looking for answers he doesn't have". 
He also has been complaining of somatic symptoms again, 
including back pain, sweats, and GI discomfort.
.
per ___:
- last contact ___- he arrived at ___ ED ___, mother had 
called ___ d/t pt ranting about needing god and lecturing 
neighbors, poor insight, concern about heart disease, denies 
SI/HI/AVH/depression, student at ___ studying to 
be EMT, inpatient recommended, primary dx unspecified psychotic 
disorder
- prior contact ___
Per EMS: ___ yom warm dry aox4 seated reports he took an unknown 
number of naproxen (220 mg/pill) in a suicide attempt approx 20 
mins prior to arrival. Bottle holds 100, 14 left. Over the 
counter med, unknown how many had been taken prior. Pt believes 
he took about 30 pills. On arrival asymptomatic, during 
transport reports drowsiness. Entry note made. Pt aox4 
throughout. Vitals monitored transported to bid ed."
. 
In the ED, patient was in good behavioral control, spent most of 
the time sleeping in his room, and completed his meals. He did 
complain of a poorly defined abdominal pain and some nausea but 
had no episodes of vomiting while in the ED. He received IV 
fluids, Tylenol for headache and nasal spray for rhinitis.
.
REVIEW OF SYSTEMS:
- Psychiatric ROS as per HPI
- General medical ROS: positive for rhinitis/cold symptoms, 
abdominal pain (sharp, crampy, intermittent, in an unclear 
distribution), nausea, vomiting, feeling hot, sweating
.
On initial interview on unit (___):
Briefly, Mr. ___ is a ___ year old man with unclear psychiatric 
history (but which is notable for at least two prior ED 
presentations for psychotic symptoms with resultant inpatient 
admissions) who was BIB EMS after intentional overdose on ~30 
tabs of 220mg naproxen. On initial and subsequent interviews, 
patient provides non-linear and vague narrative of events 
preceding current admission. Consistently alluded to an event 
(or possible event) that occurred during his childhood which is 
negatively impacting his relationships with his family members 
(specifically his mother) currently. He requested not to speak 
about details of event, but did note that he has been 
increasingly anxious in various situations (e.g. at work, in 
public) due to ongoing preoccupation with his past. Stated, "I 
can't trust anybody. I'm just confused." Reported recent 
difficulties with sleep, poor appetite, and unintentional weight 
loss (unsure how much). Also reported low energy, loss of 
interest and motivation, decreased concentration, guilt, and 
suicidal thoughts (generally passive until today). For past 
several days he also has been eating and drinking infrequently, 
calling out sick from work, isolating at home. For several weeks 
at least he has also been experiencing panic symptoms ("hot 
flashes", sweating, racing heart, overwhelming anxiety), 
hypervigilance (startled easily) and avoidance. Adamantly denies 
recent perceptual disturbances, but has been experiencing "vague 
sense that people are talking about [him]." 
.
Regarding his overdose, stated that he is "glad to be alive." 
Denied ongoing suicidal ideation. Expressed interest in resuming 
therapy to learn "coping skills" to address topics from his 
past. Did not identify anyone that treatment team could contact 
at this time.
.
ROS notable for ongoing, but improved, dyspepsia; denies ongoing 
nausea or changes in bowel habits.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial 
Psychiatry Consult note, reviewed with patient, and updated as 
appropriate]
- Prior diagnoses: unspecified psychotic disorder
- Hospitalizations: ___ and ___ ___
- Partial hospitalizations: none
- Psychiatrist: none but mother says he has an appointment with 
___
- Therapist: none currently
- Medication trials: include Zyprexa 10mg which patient stopped 
taking after hospital discharge because "it made him feel like a 
zombie"
- ___ trials: none
- Suicide attempts: the current presentation is patient's first 
suicide attempt
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: possible molestation as a child; pt reported that 
brother "experimented" on him
- Access to weapons: none
.
PAST MEDICAL HISTORY: none
PCP: none
 
Social History:
SUBSTANCE USE HISTORY:
[Extracted from Dr. ___ ___ ED Initial 
Psychiatry Consult note, reviewed with patient, and updated as 
appropriate]
- Alcohol: drank to excess in past; evasive about details but 
denies blackouts, daily use, or withdrawal symptoms
- Marijuana: smoked regularly in past, most recently daily from 
___
- Tobacco: smoked occasionally in past, none recently
- Other illicits: denies
.
FORENSIC HISTORY:
-Arrests: denies
-Convictions and jail terms: denies
-Current status (pending charges, probation, parole): denies
.
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial 
Psychiatry Consult note, reviewed with patient, and updated as 
appropriate]
-Psychiatric Diagnoses: maternal uncle diagnosed with 
schizophrenia after taking LSD
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies

 
Physical Exam:
EXAM:
General:
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
- Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
- Abdominal: Non-distended, soft with notable fullness in lower 
quadrants. Tenderness to palpation in epigastrium and LLQ.  No 
guarding, no rebound tenderness.
- Extremities: Warm and well-perfused.  No edema of the limbs.
- Skin: No rashes or lesions noted.
.
Neurological: 
CN: pupils symmetry and responsiveness to light and 
accommodation: deferred due to clinical condition
     visual fields: no visual complaints
     EOM: intact
     facial symmetry on eye closure and smile: intact and no 
asymmetry
     hearing bilaterally: intact
     phonation: normal
 .
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left         > ___ in all extremities ---------------> 
Right       > ___ in all extremities ---------------> 
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left          > ___ in all extremities --------------->
Right         > ___ in all extremities --------------->
.
Coordination: deferred due to clinical condition
Gait/Romberg: Good initiation.  Narrow-based, normal stride and 
arm swing. 
.
Cognition: 
- Wakefulness/alertness: awake and alert
- Attention: attends to conversation
- Orientation: Oriented to person, time, place, situation
- Memory: appears intact to recent events; not formally tested 
due to patient's clinical condition
- Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
The rest of the cognitive exam was deferred due to patient's
clinical condition.
.
Mental Status:
- Appearance: young athletic ___ man appearing 
stated age, short haircut, appropriate grooming/hygiene, wearing 
hospital gown, in no apparent distress/sleepy at the beginning 
of the interview
- Behavior: sitting comfortably in his chair, was holding his 
head down in the beginning of the interview but later held it up 
with appropriate eye contact; no psychomotor agitation or 
retardation
- Attitude: cooperative although not very engaged given his 
somnolence and later abdominal pain
- Mood: "I don't know how to put it... much more stressed than 
before"
- Affect: largely euthymic, reactive
- Speech: normal rate, volume, and tone
- Thought process: linear, coherent, goal-oriented, no loose 
associations
- Thought Content:
--- Safety: denies violent thoughts and current SI
--- Delusions: no evidence of delusions elicited on this 
interview
--- Obsessions/Compulsions: no evidence of delusions elicited on 
this interview
--- Hallucinations: denies A/VH, not appearing to be attending 
to internal stimuli
- Insight: Limited
- Judgment: Poor

 
Pertinent Results:
CBC
___ 06:33AM BLOOD WBC-8.1 RBC-5.54 Hgb-16.3 Hct-47.2 MCV-85 
MCH-29.4 MCHC-34.5 RDW-12.4 RDWSD-38.0 Plt ___
.
Metabolic
___ 06:33AM BLOOD Glucose-97 UreaN-10 Creat-0.9 Na-142 
K-4.5 Cl-105 HCO3-26 AnGap-11
___ 06:33AM BLOOD Calcium-9.6 Phos-3.3 Mg-1.8 Cholest-145
___ 06:33AM BLOOD ALT-11 AST-16 AlkPhos-64 TotBili-0.8
___ 06:33AM BLOOD Lipase-30
___ 06:33AM BLOOD %HbA1c-5.3 eAG-105
___ 06:33AM BLOOD Triglyc-63 HDL-61 CHOL/HD-2.4 LDLcalc-71
.
Microbio
   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was placed placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
Mr. ___ is a ___ year old man with unclear psychiatric history 
(notable for at least two prior ED presentations for psychotic 
symptoms with resultant inpatient admissions in ___ in s/o 
marijuana use) who was BIB EMS after impulsive intentional 
overdose on ~30 tabs of 220mg naproxen following an argument 
with his mother. ___ were somewhat limited by vague and, 
at times, tangential history, but overall it appeared that the 
patient had been preoccupied in recent weeks (unclear symptom 
timeline) with possible experience of being molested as a child 
and with questioning his sexuality, in s/o relapse of marijuana 
use in ___ and ex-girlfriend's recent marriage. In light of 
these preoccupations, he became increasingly distressed, 
paranoid, socially isolated, hypervigilant, and having 
neurovegetative symptoms and early morning awakening. He did not 
clearly vocalize any clearly delusional thought content or 
hallucinations.
.
Differential diagnosis remains broad, but overall presentation 
seems most consistent with a trauma disorder, with 
hypervigilance, self-protectiveness, sleep disturbance, and 
depressed mood. Despite prior admissions for psychosis in s/o 
cannabis use, there is little evidence of acute decompensated 
psychosis presently, and he appears to be relatively high 
functioning (e.g. sustaining employment and member of ___ 
___, as confirmed by his mother) and relatively well related, 
although guarded. Nevertheless, given his age and family history 
and duration of symptoms (~3 wks) following reported cessation 
of marijuana use, should also consider prodromal primary 
psychotic disorder. Could also consider obsessive-type OCD given 
intrusive unwanted thoughts. 
 . 
In an effort to target pt's symptoms, most notably intrusive 
thoughts, he was offered and agreed to trial of risperdone, 
which was started at 0.5mg qHS and eventually uptitrated to 1mg 
BID. He was also offered hydroxyzine 25mg tid prn for anxiety, 
insomnia, which he made use of once at night.  Throughout the 
hospitalization, he denied SI, reporting that he was glad to 
have survived.  He often referred to being motivated by his 
desire to be a good role model for his son and spoke often about 
motivation to return to work and continue his schooling, despite 
being unsure what he hopes to pursue occupationally in the 
future.  He reported that the intrusive thoughts improved 
somewhat with the introduction of risperidone and declined 
further dose increases, following a prior experience of feeling 
overly sedated while on Zyprexa.   He was overall reluctant to 
take antipsychotics, and often voiced a preference to receive 
treatment through talk therapy, but was amenable to trial of 
medications for acute symptom control. He was generally calm and 
cooperative, but remained guarded throughout most conversations, 
and, at times, irritable/suspicious.  He denied hallucinations 
and did not appear to be responding to internal stimuli.  
.
3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder.  
- Pt was counseled regarding negative impacts of cannabis use on 
mental health.
- Pt met with the addiction consult team on ___.   Their 
recommendations included the following:
"We emphasized the importance of medication adherence and follow 
up with outpatient psychiatric treaters, in which discussions 
about mental health, including sobriety, can continue.
.
-We provided general information about the use of medication to 
aid in maintaining sobriety and treat cravings, which can be 
considered in the future. 
.
-Recommend utilizing resources through Marijuana Anonymous. We 
will provide printed out information about their services, which 
can be accessed at: ___/
.
4. MEDICAL
# Emesis/abdominal pain- On initial presentation to unit, 
patient had an episode of vomiting.  By the following morning, 
his symptoms resolved, with no nausea, vomiting, or abdominal 
pain, and he was tolerating regular PO intake.  A medicine 
consultation concluded his symptoms were likely gastritis ___ 
NSAID ingestion, as there were no remarkable lab/exam findings.  
It was recommended to:
- continue pantoprazole 40mg daily for 4 weeks for gastric 
protection following NSAID overdose
- patient should have follow up with his PCP for resolution of 
these symptoms and proper tapering and cessation of 
pantoprazole. If he is still in the hospital after 4 weeks, he 
should be tapered to 20mg daily for ___ weeks, and then the PPI 
can be discontinued.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  He was at times interactive in 
groups and appeared to seriously consider the content.  He often 
sought out staff for individual discussions.  He was sometimes 
social with select peer patients but mostly kept to himself. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
A family meeting was held with the patient's mother ___ 
(___) on ___.  She and patient agreed about 
discharge plan, including to seek individual and group therapy, 
abstain completely from marijuana, and return to work.  She was 
supportive and stated that she felt comfortable with the patient 
returning home to live with her the following day (___).  
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent suicide attempt by overdose of NSAIDS.  His/Her static 
factors noted at that time included history of abuse, history of 
substance abuse, male gender, and questioning sexual identity.  
The modifiable risk factors, including intrusive thoughts, 
limited social supports, limited coping skills, no established 
outpatient treatment, insomnia, lack of purpose, substance 
abuse/intoxication were also addressed at that time. Coping 
skills were addressed in psychotherapy groups. Pt was counseled 
and provided information about substance use cessation.  Pt was 
supported in addressing stressors in relationship with his 
mother.  ___ were made to outpatient providers and 
insurance application process was supported.  Medications were 
started to target intrusive thoughts and insomnia.  Finally, the 
patient is being discharged with several important protective 
risk factors,  including future-oriented viewpoint, desire to 
work/contribute to society, sense of responsibility to 
family/children, lack of suicidal ideation.  Pt was able to 
engage in meaningful discussion about safety planning on day of 
discharge and identified church, brother, and emergency 
department as potential sources of support.  Overall, based on 
the totality of our assessment at this time, the patient is not 
at an acutely elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H Duration: 30 Days 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*1 
2.  RisperiDONE 1 mg PO BID 
RX *risperidone 1 mg 1 tablet(s) by mouth two times per day Disp 
#*28 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified trauma- and stressor-related disorder
Unspecified depressive disorder
Cannabis Use Disorder, Moderate
R/o unspecified schizophrenia spectrum disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for psychiatric care following 
intentional overdose of NSAIDS and cannabis use disorder. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___